US09227962B2
To a solution of tert-butyl 4-(2-oxoindolin-5-yl)-5,6-dihydropyridine-1(2H)-carboxylate (912 mg, 2.90 mmol) in THF (10 ml) and MeOH (10 ml) was added 10% Pd/C (453 mg) and stirred at room temperature under H2 (1 atom) atmosphere for 7 h. The reaction mixture was filtered through a Celite pad and concentrated. The residue was purified by column chromatography (CHCl3/MeOH) to afford tert-butyl 4-(2-oxoindolin-5-yl)piperidine-1-carboxylate (846 mg, 92%).

reactant | tert-butyl 4-(2-oxoindolin-5-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 2.90 mmol, 912 mg | O=C1NC2=CC=C(C=C2C1)C1=CCN(CC1)C(=O)OC(C)(C)C | C18H22N2O3
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | MeOH | 10 ml | CO | CH4O
catalyst | Pd/C | 453 mg | [Pd] | Pd
product | tert-butyl 4-(2-oxoindolin-5-yl)piperidine-1-carboxylate | 846 mg, 92% | O=C1NC2=CC=C(C=C2C1)C1CCN(CC1)C(=O)OC(C)(C)C | C18H24N2O3
